US08022062B2
2-Aminomethyl-6-fluoropyridine Dihydrochloride:
Dissolve 2-cyano-6-fluoropyridine (300 mg, 2.46 mmol) in absolute ethanol (12 mL). Add 10% Pd/C (93 mg) and concentrated HCl (0.614 mL, 7.37 mmol). Hydrogenate at 40 psi overnight. Filter through Celite® and concentrate to give the title compound as a solid (356 mg, 73%). MS (ES+) m/z: 127 (M+H)+.

reactant | 2-cyano-6-fluoropyridine | 2.46 mmol, 300 mg | C(#N)C1=NC(=CC=C1)F | C6H3FN2
reactant | HCl | 7.37 mmol, 0.614 mL | Cl | ClH
solvent | ethanol | 12 mL | C(C)O | C2H6O
catalyst | Pd/C | 93 mg | [Pd] | Pd
product | 2-Aminomethyl-6-fluoropyridine Dihydrochloride | 356 mg, 73% | Cl.Cl.NCC1=NC(=CC=C1)F | InChI=1S/C6H7FN2.2ClH/c7-6-3-1-2-5(4-8)9-6;;/h1-3H,4,8H2;2*1H
